US08912186B2
By a procedure similar to that of example 1.59.1, starting from benzaldehyde and 4-ethylacetophenone, 1-(4-ethylphenyl)-3-phenylprop-2-en-1-one was obtained as yellowish solid.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-ethylacetophenone | CCC1=CC=C(C=C1)C(=O)C | C10H12O
product | 1-(4-ethylphenyl)-3-phenylprop-2-en-1-one | C(C)C1=CC=C(C=C1)C(C=CC1=CC=CC=C1)=O | C17H16O
